US06458796B1
5-Benzoyl-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one
384 mg (0.988 mmol) of 5-(hydroxy-phenyl-methyl)-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one are dissolved in a mixture of 3 ml of DMSO and 10 ml of dichloromethane, and the solution is cooled to 0° C. 1.37 ml (9.88 mmol) of triethylamine and 692 mg (4.35 mmol) of pyridine-SO3 complex are added, and the reaction mixture is then stirred at room temperature for 15 hours. For work-up, the mixture is diluted with 100 ml of dichloromethane and the organic phase is washed with 1N HCl and saturated sodium bicarbonate solution and then dried over sodium sulphate. The solvent is removed, and chromatographic purification gives 185 mg (48%) of a solid, m.p.: 105° C.

reactant | 5-(hydroxy-phenyl-methyl)-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | 0.988 mmol, 384 mg | OC(C=1NC(C2=C(N1)N(N=N2)C(CCCC2=CC=CC=C2)C)=O)C2=CC=CC=C2 | C22H23N5O2
reactant | triethylamine | 9.88 mmol, 1.37 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 3 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 5-Benzoyl-3-(1-methyl-4-phenyl-butyl)-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | 185 mg, 48% | C(C1=CC=CC=C1)(=O)C=1NC(C2=C(N1)N(N=N2)C(CCCC2=CC=CC=C2)C)=O | C22H21N5O2
